US04198517
1-[2-(Carbamoylmethyl)-3-(acetylthio)propanoyl]-L-proline
By substituting 3-acetylthio-2-(carbamoylmethyl)propanoic acid for the 3-(acetylthio)-2-(methoxycarbonylmethyl)-propanoic acid in the procedure of Example 2, and then submitting the product to the procedure of Example 3, 1-[2-(carbamoylmethyl)-3-(acetylthio)propanoyl]-L-proline tert-butyl ester and 1-[2-(carbamoylmethyl)-3-(acetylthio)-propanyl]-L-proline are obtained.

reactant | 3-acetylthio-2-(carbamoylmethyl)propanoic acid | C(C)(=O)SCC(C(=O)O)CC(N)=O | C7H11NO4S
reactant | 3-(acetylthio)-2-(methoxycarbonylmethyl)-propanoic acid | C(C)(=O)SCC(C(=O)O)CC(=O)OC | C8H12O5S
reactant | 1-[2-(carbamoylmethyl)-3-(acetylthio)propanoyl]-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSC(C)=O)CC(N)=O)=O)=O | C16H26N2O5S
reactant | 1-[2-(carbamoylmethyl)-3-(acetylthio)-propanyl]-L-proline | C(N)(=O)CC(CN1[C@H](C(=O)O)CCC1)CSC(C)=O | C12H20N2O4S
product | 1-[2-(Carbamoylmethyl)-3-(acetylthio)propanoyl]-L-proline | C(N)(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)CSC(C)=O | C12H18N2O5S
